US07423031B2
To a solution of 2,3-dibromo-6,7-dihydro-1H,5H-pyrrolo[2,3-c]azepine-4,8-dione (2.5 g, 7.74 mmol) in a mixture of DMF-MeOH (6 mL) is added NaBH4 (1.47 g, 38.7 mmol). The mixture is stirred at room temperature overnight. It is concentrated and water is added. The mixture is extracted with EtOAc, washed with brine and dried. After the solvent is removed, the residue is subjected to silica gel column chromatography and eluted with CH2Cl2—MeOH to give 2,3-dibromo-4-hydroxy-4,5,6,7-tetrahydro-1H-pyrrolo[2,3-c]azepin-8-one; 1H NMR (DMSO-d6) δ 1.74-1.84 (m, 1H), 2.01-2.10 (m, 1H), 3.00-3.10 (m, 1H), 3.42-3.50 (m, 1H), 4.63-4.68 (m, 1H), 5.06 (d, 1H, J=6.4 Hz), 7.92 (d, 1H, J=4.4 Hz); m/z [M++1] 324.9.

reactant | 2,3-dibromo-6,7-dihydro-1H,5H-pyrrolo[2,3-c]azepine-4,8-dione | 7.74 mmol, 2.5 g | BrC1=C(C2=C(C(NCCC2=O)=O)N1)Br | C8H6Br2N2O2
reactant | NaBH4 | 38.7 mmol, 1.47 g | [BH4-].[Na+]
solvent | DMF MeOH | 6 mL | CN(C)C=O.CO
product | 2,3-dibromo-4-hydroxy-4,5,6,7-tetrahydro-1H-pyrrolo[2,3-c]azepin-8-one | BrC1=C(C2=C(C(NCCC2O)=O)N1)Br | C8H8Br2N2O2
